US09278950B2
Step 1. 3-{[(Benzyloxy)carbonyl]amino}-7-(cyanomethyl)quinoline-2-carboxylic acid
To a screw-cap vial equipped with a magnetic stir bar, ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate (105.9 mg, 0.2467 mmol), 4-isoxazoleboronic acid pinacol ester (Aldrich, 75.8 mg, 0.389 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (Aldrich, 20.5 mg, 0.0260 mmol) and cesium carbonate (257.9 mg, 0.7915 mmol) were added. The vial was sealed with a Teflon®-lined septum, and then evacuated and backfilled with nitrogen three times. 1,4-Dioxane (2.00 mL) was added via a syringe, followed by deoxygenated water (1.00 mL). The reaction mixture was heated at 90° C. for 2 h and was then allowed to cool to room temperature. After cooling, the reaction mixture was diluted with water (50 mL). AcOH (159 mg, 2.66 mmol) was added to adjust the pH to 5. The mixture was extracted with EtOAc (3×50 mL). The combined organic extract was washed with brine (100 mL), dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by flash chromatography on silica gel (0-10% MeOH in DCM) to give the sub-title compound as a brown solid (46.2 mg, 52%). LCMS calc. for C20H16N3O4 (M+H)+: m/z=362.1. found 362.1.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate | 0.2467 mmol, 105.9 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)OCC | C20H17BrN2O4
reactant | 4-isoxazoleboronic acid pinacol ester | 0.389 mmol, 75.8 mg | O1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H14BNO3
reactant | cesium carbonate | 0.7915 mmol, 257.9 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | AcOH | 2.66 mmol, 159 mg | CC(=O)O | C2H4O2
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 0.0260 mmol, 20.5 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | 3-{[(Benzyloxy)carbonyl]amino}-7-(cyanomethyl)quinoline-2-carboxylic acid | 46.2 mg, 52% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)CC#N)C(=O)O | C20H15N3O4
